US04634710
A mixture of 10.5 g of sodium ethylate, 20 g of sodium carbonate and 400 ml of ethanol was stirred at 50° under argon for 30 minutes and then treated with 7 g of 5,7-dihydro-5,5,7,7-tetramethyl-2-[[(3-methyl-4-nitro-2-pyridyl)methyl]thio]indeno[5,6-d]imidazol-6(1H)-one. After stirring at 50° for 5 hours under argon the reaction mixture was concentrated in vacuo. The residue was treated with methylene chloride and buffered by means of glacial acetic acid; the methylene chloride solution was extracted with sodium bicarbonate solution, dried and concentrated. The residue was chromatographed on silica gel while eluting with methylene chloride/ethyl acetate (3:1), the medium pressure flash chromatography method being used and the pressure being produced with nitrogen gas. There was obtained 2-[[(4-ethoxy-3-methyl-2-pyridyl)methyl]thio]5,7-dihydro-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one which melts at 175°-176° after recrystallization from ether.

reactant | sodium ethylate | 10.5 g | CC[O-].[Na+]
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5,7-dihydro-5,5,7,7-tetramethyl-2-[[(3-methyl-4-nitro-2-pyridyl)methyl]thio]indeno[5,6-d]imidazol-6(1H)-one | 7 g | CC1(C(C(C2=CC=3NC(=NC3C=C12)SCC1=NC=CC(=C1C)[N+](=O)[O-])(C)C)=O)C | C21H22N4O3S
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-[[(4-ethoxy-3-methyl-2-pyridyl)methyl]thio]5,7-dihydro-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | C(C)OC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C)C | C23H27N3O2S
